US06482986B1
a) 1-Bromo-2-chloro-4-ethynylbenzene
40 g of sodium hydroxide are dissolved, under an inert atmosphere, in 230 ml of water, 120 ml of 1,4-dioxane are added and the reaction mixture is heated to 80° C. 17.5 g of 3-chloro-3-(4-bromo-3-chlorophenyl)propenal dissolved in 400 ml of 1,4-dioxane are added and the reaction mixture is stirred for 30 minutes at 80° C. The reaction mixture is allowed to cool to room temperature and 2300 ml of dichloromethane are then added. The phases are separated after settling has taken place and the organic phase is washed with water and dried over magnesium sulphate. The compound dissolved in a dichloromethane/1,4-dioxane mixture is used in its current form in the next step.

reactant | sodium hydroxide | 40 g | [OH-].[Na+]
reactant | 3-chloro-3-(4-bromo-3-chlorophenyl)propenal | 17.5 g | ClC(=CC=O)C1=CC(=C(C=C1)Br)Cl | C9H5BrCl2O
reactant | dichloromethane | 2300 ml | ClCCl | CH2Cl2
solvent | water | 230 ml | O | H2O
solvent | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 1-Bromo-2-chloro-4-ethynylbenzene | BrC1=C(C=C(C=C1)C#C)Cl | C8H4BrCl
